* RFD16N06LESM SPICE Model
.SUBCKT RFD16N06LESM 2 1 3  ; DRAIN GATE SOURCE

* Capacitances
CA     12 8 1.46n
CB     15 14 1.46n
CIN    6 8 1n

* Diodes
DBODY   7 5 DBODYMOD
DBREAK  5 11 DBREAKMOD
DPLCAP 10 5 DPLCAPMOD

* Voltage-controlled sources
EBREAK   11 7 17 18 66
EDS      14 8 5 8 1
EGS      13 8 6 8 1
ESG      6 10 6 8 1
EVTHRES  6 21 19 8 1
EVTEMP   20 6 18 22 1

* Current source
IT 8 17 DC 1

* Inductances
LDRAIN   2 5 1n
LGATE    1 9 5.5n
LSOURCE  3 7 4.4n

* MOSFETs
MMED   16 6 8 8 MMEDMOD
MSTRO  16 6 8 8 MSTROMOD
MWEAK  16 21 8 8 MWEAKMOD

* Resistors
RBREAK    17 18 RBREAKMOD 1
RDRAIN    50 16 RDRAINMOD 7m
RGATE     9 20 3.6
RLDRAIN   2 5 10
RLGATE    1 9 55
RLSOURCE  3 7 44
RSLC1     5 51 RSLCMOD 1u
RSLC2     5 50 1k
RSOURCE   8 7 RSOURCEMOD 14.5m
RVTHRES   22 8 RVTHRESMOD 1
RVTEMP    18 19 RVTEMPMOD 1

* Switches
S1A 6 12 13 8 S1AMOD
S1B 13 12 13 8 S1BMOD
S2A 6 15 14 13 S2AMOD
S2B 13 15 14 13 S2BMOD

* Bias and control voltages
VBAT 22 19 DC 1

* Behavioral source
ESLC 51 50 VALUE={(V(5,51)/ABS(V(5,51)))*(PWR(V(5,51)/(1u*100),3.5))}

* Models
.MODEL DBODYMOD D (IS=6.3e-13 RS=6.8m TRS1=1m TRS2=1u XTI=4.3 CJO=1.28n TT=51n M=0.5)
.MODEL DBREAKMOD D (RS=0.29 TRS1=100u TRS2=0)
.MODEL DPLCAPMOD D (CJO=950p IS=1e-30 N=10 M=0.82)

.MODEL MMEDMOD NMOS (VTO=2.10 KP=6 IS=1e-30 N=10 TOX=1 L=1u W=1u RG=3.6)
.MODEL MSTROMOD NMOS (VTO=2.45 KP=60.5 IS=1e-30 N=10 TOX=1 L=1u W=1u)
.MODEL MWEAKMOD NMOS (VTO=1.79 KP=0.13 IS=1e-30 N=10 TOX=1 L=1u W=1u RG=36 RS=0.1)

.MODEL RBREAKMOD RES (TC1=1.2m TC2=-500n)
.MODEL RDRAINMOD RES (TC1=13m TC2=31u)
.MODEL RSLCMOD RES (TC1=5.5m TC2=7u)
.MODEL RSOURCEMOD RES (TC1=1m TC2=1u)
.MODEL RVTHRESMOD RES (TC1=-1.8m TC2=-5.8u)
.MODEL RVTEMPMOD RES (TC1=-1.7m TC2=800n)

.MODEL S1AMOD VSWITCH (RON=10u ROFF=0.1 VON=-4.8 VOFF=-2.8)
.MODEL S1BMOD VSWITCH (RON=10u ROFF=0.1 VON=-2.8 VOFF=-4.8)
.MODEL S2AMOD VSWITCH (RON=10u ROFF=0.1 VON=-0.6 VOFF=0.5)
.MODEL S2BMOD VSWITCH (RON=10u ROFF=0.1 VON=0.5 VOFF=-0.6)

.ENDS RFD16N06LESM