* C:\Users\a940590\Documents\GitHub\VMC\LTspice\VMC\VMC.asc
* Generated by LTspice 24.1.7 for Windows.
X§U1 N002 0 N008 SHT40I_HD1B_R2
R1 N005 N009 10k
R2 N007 N009 250k
V3 NC_01 0 SINE(0 5 0.05)
R3 N004 N003 5000
R4 N003 0 2700
R5 N002 N004 7700
V2 N001 0 12
R6 N001 N006 83.3
X§U4 N001 N002 N001 NC_02 N002 0 0 ADP7105 Vref=5
X§U5 N006 N007 0 RFD16N06LESM
X§U2 N009 N004 N002 0 N007 LM321LV
X§U3 N008 N005 N002 0 N005 LM321LV
.include SHT40I_model.sub
.include MOS.lib
.include lm321lv.lib
.param RH=55
X1 VRH VDD VSS SHT40I_HD1B_R2
.tran 1s
.lib ADP7105.sub
.lib lm321lv.lib
.lib MOS.lib
.lib SHT40I_model.sub
.backanno
.end
